US06677349B1
Using the general method of Example 232, 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.7 mmol) was reacted with ethanesulfonyl chloride (2.11 mL, 22.3 mmol) to provide 85 mg of N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]ethanesulfonamide as an off-white solid, m.p. 210.7-211.6° C.

reactant | 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.7 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5
reactant | ethanesulfonyl chloride | 22.3 mmol, 2.11 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]ethanesulfonamide | 85 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)CC)C | C17H23N5O2S
